### PR TITLE
[Merged by Bors] - feat: Direct sum of additive characters

### PR DESCRIPTION
**Pull request by YaelDillies**
Define the direct sum of additive characters as an `AddChar (⨁ i, G i) R`.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/AddChar.lean [hunk 1]
```diff
@@ -0,0 +1,35 @@
...
+/-- Direct sum of additive characters. -/
+@[simps!]
+def directSum (ψ : ∀ i, AddChar (G i) R) : AddChar (⨁ i, G i) R :=
+  toAddMonoidHomEquiv.symm <| DirectSum.toAddMonoid fun i ↦ toAddMonoidHomEquiv (ψ i)
+
+lemma directSum_injective :
+    Injective (directSum : (∀ i, AddChar (G i) R) → AddChar (⨁ i, G i) R) := by
+  refine toAddMonoidHomEquiv.symm.injective.comp $ DirectSum.toAddMonoid_injective.comp ?_
+  rintro ψ χ h
+  simpa [Function.funext_iff] using h
```
Comment (b-mehta) [inline Mathlib/Algebra/DirectSum/AddChar.lean:32]:
```suggestion
  simpa [funext_iff] using h
```

**Review by b-mehta — APPROVED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
